US05494887
11. Preparation of 4-Chloro-2-methylthiopyrido[3,2-d]pyrimidine
A mixture of 19.0 g (98 mmol) of 4-hydroxy-2-methylthiopyrido[3,2-d]pyrimidine, 36.5 mL (60 g, 390 mmol) of phosphorus oxychloride and 200 mL of acetonitrile was prepared and heated to reflux with stirring. Since not much appeared to happen, about 1 mL of N,N-dimethylformamide was added. The solids then all went into solution in about 10 min. After about 2 hours, the volatiles were removed by evaporation under reduced pressure and the residue was diluted with dichloromethane. The resulting mixture was carefully washed with water, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was diluted with hexane and the solids were recovered by filtration and dried to obtain 17.8 g of the title compound melting at 120°-121° C.

reactant | 4-hydroxy-2-methylthiopyrido[3,2-d]pyrimidine | 98 mmol, 19.0 g | OC=1C2=C(N=C(N1)SC)C=CC=N2 | C8H7N3OS
reactant | phosphorus oxychloride | 390 mmol, 36.5 mL, 60 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | about 1 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2-methylthiopyrido[3,2-d]pyrimidine | 17.8 g | ClC=1C2=C(N=C(N1)SC)C=CC=N2 | C8H6ClN3S
